US09340556B2
To the suspension of 3-fluoro-4,5-dimethoxyaniline (73 g, 426 mmol) in Ethanol (100 mL) was added diethyl 2-(ethoxymethylene)malonate (85 mL, 426 mmol), and the resulting mixture was heated at 80° C. for 1 h. LCMS indicated completion of the reaction. The mixture was concentrated in vacuo to remove ethanol, and the residue was washed with hexane to afford diethyl 2-(((3-fluoro-4,5-dimethoxyphenyl)amino)methylene)malonate (142 g, 416 mmol, 98% yield) as a yellow solid. LCMS: (M+H)+: 342.1.

reactant | 3-fluoro-4,5-dimethoxyaniline | 426 mmol, 73 g | FC=1C=C(N)C=C(C1OC)OC | C8H10FNO2
reactant | diethyl 2-(ethoxymethylene)malonate | 426 mmol, 85 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | Ethanol | 100 mL | C(C)O | C2H6O
product | diethyl 2-(((3-fluoro-4,5-dimethoxyphenyl)amino)methylene)malonate | 416 mmol, 142 g, 98% yield | FC=1C=C(C=C(C1OC)OC)NC=C(C(=O)OCC)C(=O)OCC | C16H20FNO6
